US06153768
Synthesis of 7-hydroxy-3-(4-hydroxyphenyl)-4-[4-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2H-benzopyran
4-Hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]4-[4-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2,3-dihydro-4H-benzopyran (220 mg, 0.3 mmol) and pyridinium p-toluenesulfonate (789 mg, 3 mmol) were dissolved in methanol (8 mg) and then refluxed for 8 hours. The reaction solution was cooled to room temperature and, after adding water, extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to remove the organic solvent. The concentrate was subjected to column chromatography (n-hexane:ethyl acetate=1:1) to obtain 142 mg (yield, 78%) of the title compound as a colorless oil.

reactant | 4-Hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]4-[4-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 0.3 mmol, 220 mg | OC1(C(COC2=C1C=CC(=C2)OCOC)C2=CC=C(C=C2)OCOC)C2=CC=C(C=C2)OCCCCCSCCCC(C(F)(F)F)(F)F | C35H41F5O7S
reactant | pyridinium p-toluenesulfonate | 3 mmol, 789 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | methanol | 8 mg | CO | CH4O
product | 7-hydroxy-3-(4-hydroxyphenyl)-4-[4-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2H-benzopyran | OC1=CC2=C(C(=C(CO2)C2=CC=C(C=C2)O)C2=CC=C(C=C2)OCCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C31H31F5O4S
